US08258144B2
A solution of 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (489 mg, 1.00 mmol) in dioxane (6 mL) was degassed with Ar before being charged with tributyl(ethoxyvinyl)tin (0.371 mL, 1.10 mmol) and Pd(Ph3P)4 (90 mg, 0.078 mmol). The mixture was stirred at 100° C. for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give 1-(2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone (185 mg).

reactant | 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 1.00 mmol, 489 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C16H14ClIN4O2S
reactant | tributyl(ethoxyvinyl)tin | 1.10 mmol, 0.371 mL | C(CCC)[Sn](C=COCC)(CCCC)CCCC
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.078 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone | 185 mg | ClC=1N=C(C2=C(N1)N(C=C2C(C)=O)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C18H17ClN4O3S
